US08895733B2
6-{5-[3-(Cyclopropylmethylamino)-pyridin-2-yl]-[1,2,4]oxadiazol-3-yl}-N-methyl-N-phenyl-[1,3,5]triazine-2,4-diamine (Method 25)
6-[5-(3-Fluoropyridin-2-yl)-[1,2,4]oxadiazol-3-yl]-N-methyl-N-phenyl-[1,3,5]triazine-2,4-diamine (prepared in an analogous manner to Example 482, 50 mg, 0.137 mmol), 1-cyclopropylmethanamine (24 μL, 0.274 mmol) and potassium carbonate (57 mg, 0.411 mmol) were suspended in anhydrous DMF (2 mL) in a sealed tube at room temperature under nitrogen. The reaction mixture was stirred at 90 C for 3 h and then at 100 C for 18 h. The mixture was diluted with DCM (10 mL) and then washed with saturated aq. ammonium chloride (3×5 mL) and then brine (5 mL). The organic layer was dried over sodium sulfate and evaporated under vacuum. The crude residue was purified by flash chromatography (0-1% (7M ammonia in MeOH) in DCM) to afford the title compound (25 mg, 44%).

reactant | 6-[5-(3-Fluoropyridin-2-yl)-[1,2,4]oxadiazol-3-yl]-N-methyl-N-phenyl-[1,3,5]triazine-2,4-diamine | FC=1C(=NC=CC1)C1=NC(=NO1)C1=NC(=NC(=N1)N(C1=CC=CC=C1)C)N | C17H13FN8O
reactant | 1-cyclopropylmethanamine | 0.274 mmol, 24 μL | C1(CC1)CN | C4H9N
reactant | potassium carbonate | 0.411 mmol, 57 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 6-{5-[3-(Cyclopropylmethylamino)-pyridin-2-yl]-[1,2,4]oxadiazol-3-yl}-N-methyl-N-phenyl-[1,3,5]triazine-2,4-diamine | 25 mg, 44% | C1(CC1)CNC=1C(=NC=CC1)C1=NC(=NO1)C1=NC(=NC(=N1)N(C1=CC=CC=C1)C)N | C21H21N9O
